US04318909
N-(2-Fluorophenylmethyl)-3-hydroxy-N-methyl-3-phenylpropylamine
A mixture of N-methyl-o-fluorobenzylamine (27.8 g), 3-chloro-1-phenylpropan-1-ol(34.2 g), 2,2,6,6-tetramethylpiperidine (34.4 ml) and acetonitrile (500 ml) was refluxed for 48h. The mixture was cooled to room temperature, filtered and the solvent removed. The residue was partitioned between chloroform and aqueous sodium bicarbonate. The organic phase was dried and the solvent removed. The residue was dissolved in 60°-80° petrol (150 ml) and allowed to crystallise yielding the title compound (32.4 g) which is cyclodehydrohalogenated as in Example 4.

reactant | N-methyl-o-fluorobenzylamine | 27.8 g | CNCC1=C(C=CC=C1)F | C8H10FN
reactant | 3-chloro-1-phenylpropan-1-ol | 34.2 g | ClCCC(O)C1=CC=CC=C1 | C9H11ClO
reactant | 2,2,6,6-tetramethylpiperidine | 34.4 ml | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | N-(2-Fluorophenylmethyl)-3-hydroxy-N-methyl-3-phenylpropylamine | 32.4 g | FC1=C(C=CC=C1)CN(C)CCC(C1=CC=CC=C1)O | C17H20FNO
